US07354933B2
2-(Isoquinolin-5-ylamino)-2-methylpropionitrile
5.0 g (34.7 mmol) of 5-aminoisoquinolin, 5.1 ml (69.4 mmol) of acetone and 945 mg (6.94 mmol) of zinc chloride were dissolved in 100 ml of acetonitrile and treated at 0° C. with 6.9 g (69.4 mmol) of trimethylsilyl cyanide. The mixture was refluxed for 3 hours, the solvent was then evaporated off and the residue was taken up in 200 ml of sodium hydrogen carbonate and extracted three times with ethyl acetate. The combined organic phases were dried and the residue remaining after evaporation was purified by flash chromatography (SiO2, methylene chloride/methanol=95/5) to give 6.0 g (82%) of the desired product.

reactant | 5-aminoisoquinolin | 34.7 mmol, 5.0 g | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
reactant | acetone | 69.4 mmol, 5.1 ml | CC(=O)C | C3H6O
reactant | trimethylsilyl cyanide | 69.4 mmol, 6.9 g | C[Si](C)(C)C#N | C4H9NSi
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
catalyst | zinc chloride | 6.94 mmol, 945 mg | [Cl-].[Zn+2].[Cl-]
product | 2-(Isoquinolin-5-ylamino)-2-methylpropionitrile | 6.0 g, 82% | C1=NC=CC2=C(C=CC=C12)NC(C#N)(C)C | C13H13N3
